US07115666B2
To a mixture of [2-methyl-3-(4-isopropylphenyl)-propionaldehyde] (3.0 g, 15.8 mmol, 1.0 equiv), N-tert-butylhydroxylamine (1.76 g, 19.7 mmol, 1.3 equiv) and toluene (60 ml) was added p-TsOH (50 mg), and the mixture was stirred at rt for 18 h. Removal of the solvent under reduced pressure gave a solid which was purified by column chromatography (EtOAc:hexane 1:1) to give N-tert-butyl-C-[2-(4-isopropylphenyl)-1-methyethyl]nitrone (1.04 g, 25.18%) as a white solid: 1H NMR (CDCl3) δ 7.12 (d, J=1.0, 4H), 6.63 (d, J=7.2 1H), 3.47–3.31 (m, 1H), 2.89–2.80 (m, 2H), 2.71–2.63 (dd, 1H), 1.44 (s, 9H), 1.25 (d, J=6.9, 3H).

reactant | 2-methyl-3-(4-isopropylphenyl)-propionaldehyde | CC(C=O)CC1=CC=C(C=C1)C(C)C | C13H18O
reactant | N-tert-butylhydroxylamine | 19.7 mmol, 1.76 g, 1.3 equiv | C(C)(C)(C)NO | C4H11NO
reactant | p-TsOH | 50 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | N-tert-butyl-C-[2-(4-isopropylphenyl)-1-methyethyl]nitrone | 1.04 g, 25.18% | C(C)(C)(C)[N+](=CC(CC1=CC=C(C=C1)C(C)C)C)[O-] | C17H27NO
